US07005440B1
4-Chloromethyl-2-phenyl-thiazole
A solution of thiobenzamide (1.37 g, 10 mmol) and 1,3-dichloro-acetone (1.27 g, 10 mmol) in ethanol (25 mL) is warmed to 75° C. and stirred at this temperature for 1 h. The resulting solution is cooled, poured into ice then brought to pH 8 with K2CO3 solution (sat.). This mixture is extracted with ethyl acetate, dried over MgSO4 and concentrated to give the title compound. This product is used without further purification. MS (ESI) 210 (M+H)+.

reactant | thiobenzamide | 10 mmol, 1.37 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloro-acetone | 10 mmol, 1.27 g | ClCC(=O)CCl | C3H4Cl2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-Chloromethyl-2-phenyl-thiazole | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
